US07960369B2
ethyl (4-hydroxyphenoxy)acetate
A solution of ethyl (4-methoxyphenoxy)acetate (2.0 g, 9.5 mmol), ethanethiol (2.8 mL, 38 mmol) and aluminum chloride (5.1 g, 38 mmol) in dichloromethane (20 mL) was stirred under ice-cooling for 40 min. The reaction mixture was poured into a mixture of chloroform and saturated aqueous sodium hydrogencarbonate, and filtered through celite. The organic layer was separated, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropyl ether to give the title compound (1.4 g, yield 75%).

reactant | ethyl (4-methoxyphenoxy)acetate | 9.5 mmol, 2.0 g | COC1=CC=C(OCC(=O)OCC)C=C1 | C11H14O4
reactant | ethanethiol | 38 mmol, 2.8 mL | C(C)S | C2H6S
reactant | aluminum chloride | 38 mmol, 5.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl (4-hydroxyphenoxy)acetate | 1.4 g, yield 75% | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
